US07319099B2
(b) 4-(4-[1,3,4]Oxadiazol-2-yl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester
Prepared in analogy to example 4.4 (a) from 2-(4-Bromo-phenyl)-[1,3,4]oxadiazole and N-BOC-piperazine.

reactant | 2-(4-Bromo-phenyl)-[1,3,4]oxadiazole | BrC1=CC=C(C=C1)C=1OC=NN1 | C8H5BrN2O
reactant | N-BOC-piperazine | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
product | 4-(4-[1,3,4]Oxadiazol-2-yl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)C=1OC=NN1 | C17H22N4O3
